US04305881
A solution of 1.0 g of 17, 17-ethylenedioxy-androsta-1,4,6-trien-3-one in 40 ml of methanol is treated at room temperature with 0.28 ml of 10% methanolic sodium hydroxide and 1.8 ml of 30% hydrogen peroxide and stirred at room temperature for 4.5 hours. 50 ml of water are added dropwise to the solution, the separated product is collected by suction and chromatographed on 30 g of silica gel. Elution with hexane/ether (3:2) yields 0.793 g (75%) of crystalline 17,17-ethylenedioxy-1α,2α-epoxy-androsta-4,6-dien-3-one. The analytical sample is prepared by recrystallisation from ether; melting point 181°-186° C.; [α]D25 =+167° (c=0.5 in dioxan); UV (ethanol): λmax 291 nm (ε=19270).

reactant | 17-ethylenedioxy-androsta-1,4,6-trien-3-one | C1OC2[C@]3(C)[C@@H](CC2OC1)[C@@H]1C=CC2=CC(C=C[C@]2(C)[C@H]1CC3)=O | C21H26O3
reactant | sodium hydroxide | 0.28 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 1.8 ml | OO | H2O2
reactant | water | 50 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | 17,17-ethylenedioxy-1α,2α-epoxy-androsta-4,6-dien-3-one | 0.793 g, 75% | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]2CC3)O5)=O)OC1 | C21H26O4
